US09084794B2
a) 1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropanamine
To a stirring solution of (1-aminocyclopropyl)methanol (9.69 mmol), 4-(dimethylamino)pyridine (0.484 mmol), and triethylamine (21.32 mmol) in anhydrous dichloromethane (25 mL) was added chloro(1,1-dimethylethyl)dimethylsilane (10.66 mmol). After stirring 20 h, the reaction was quenched with saturated aq ammonium chloride and extracted with dichloromethane. The extracts were washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to afford the crude title compound (1.70 g, 78% yield) as a colorless liquid. MS(ES)+ m/e 202.2 [M+H]+.

reactant | (1-aminocyclopropyl)methanol | 9.69 mmol | NC1(CC1)CO | C4H9NO
reactant | triethylamine | 21.32 mmol | C(C)N(CC)CC | C6H15N
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 10.66 mmol | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
catalyst | 4-(dimethylamino)pyridine | 0.484 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropanamine | 1.70 g, 78% yield | [Si](C)(C)(C(C)(C)C)OCC1(CC1)N | C10H23NOSi
